US05616579
N-[4-(4-Piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]pyrrole-3-carboxamide
Following a procedure similar to that described in Example 13, but using 4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenylamine and 3-pyrrolecarboxylic acid as starting materials, in relative proportions similar to those used in that Example, the title compound was obtained as an oil in a 74% yield.

reactant | 4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenylamine | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CN | C15H23N3O
reactant | 3-pyrrolecarboxylic acid | N1C=C(C=C1)C(=O)O | C5H5NO2
product | N-[4-(4-Piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]pyrrole-3-carboxamide | 74% yield | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(=O)C1=CNC=C1 | C20H26N4O2
